US09108938B2
To a mixture of a1 (ca. 0.095 mol) in CH3CN (300 mL) was added cyclopropanecarboximidamide hydrochloride (12.5 g, 0.105 mol), then sodium hydroxide (7.6 g, 0.19 mol) in water (7.6 mL) was added drop-wise at 0° C. After addition was complete, the resulting mixture was stirred at room temperature overnight. After filtration, the filtrate was concentrated to remove CH3CN under reduced pressure and the residue water phase was extracted with DCM (3×300 mL). The organic layer was dried over Na2SO4, filtered and concentrated in vacuum to give a red oil, which was purified by column chromatography on silica gel (petroleum ether:EtOAc=2:1) to afford 2-cyclopropylpyrimidine-5-carbaldehyde (7.6 g, yield: 53.5%). 1H NMR (CDCl3 400 MHz): δ 10.06 (s, 1H), 8.99 (s, 2H), 2.41-2.35 (m, 1H), 1.32-1.21 (m, 4H).

reactant | cyclopropanecarboximidamide hydrochloride | 0.105 mol, 12.5 g | Cl.C1(CC1)C(N)=N
reactant | sodium hydroxide | 0.19 mol, 7.6 g | [OH-].[Na+]
solvent | CH3CN | 300 mL | CC#N | C2H3N
solvent | water | 7.6 mL | O | H2O
product | 2-cyclopropylpyrimidine-5-carbaldehyde | 7.6 g, yield: 53.5% | C1(CC1)C1=NC=C(C=N1)C=O | C8H8N2O
